US04170599
A mixture of 3.08 g. (0.02 mole) α-terpineol and 4.45 g. (0.022 mole) of 85 percent m-chloroperbenzoic acid in 70 ml. of ethylene dichloride is refluxed under nitrogen for 20 hours, then cooled to room temperature and washed with aqueous sodium bisulfite and sodium bicarbonate solutions. The solvent is removed in vacuo and the resulting oil is treated in situ with 2.94 g. (0.0136 mole) pyridinium chlorochromate. The resulting mixture is stirred under nitrogen in 35 ml. of methylene chloride at ambient temperatures for 2.5 hours. After addition of 200 ml. diethyl ether, the mixture is filtered through celite and the solvent evaporated to give, on steam distillation, 1,3,3-trimethyl-2-oxabicyclo [2,2,2]octan-6-one; m.p. 50° to 52° C.

reactant | α-terpineol | 0.02 mole | CC1=CC[C@H](CC1)C(C)(C)O | C10H18O
reactant | m-chloroperbenzoic acid | 0.022 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethylene dichloride | C(CCl)Cl | C2H4Cl2
reactant | pyridinium chlorochromate | 0.0136 mole | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,3,3-trimethyl-2-oxabicyclo [2,2,2]octan-6-one | CC12OC(C(CC1=O)CC2)(C)C | C10H16O2
